US04978756
Preparation of 6(2,4-bis(di-n-octylamino)-s-triazin-6-ylamino)-2-mercaptobenzothiazole
3 Parts of 6(2,4-dichloro-s-triazin-6-ylamino)-2-mercaptobenzothiazole (prepared as described in part A of Example 10) were reacted with 25 parts of di-n-octylamine using the procedure described in Example 14 for the preparation of 5(2,4-bis(di-n-octylamino)-s-triazin-6-ylamino)benzotriazole. A yield of 0.96 parts of product of melting point 81°-83° C. was obtained.

reactant | 6(2,4-dichloro-s-triazin-6-ylamino)-2-mercaptobenzothiazole | ClC1=NC(=NC(=N1)Cl)NC1=CC2=C(N=C(S2)S)C=C1 | C10H5Cl2N5S2
reactant | di-n-octylamine | C(CCCCCCC)NCCCCCCCC | C16H35N
reactant | 5(2,4-bis(di-n-octylamino)-s-triazin-6-ylamino)benzotriazole | C(CCCCCCC)N(C1=NC(=NC(=N1)N(CCCCCCCC)CCCCCCCC)NC1=CC2=C(NN=N2)C=C1)CCCCCCCC | C41H73N9
product | 6(2,4-bis(di-n-octylamino)-s-triazin-6-ylamino)-2-mercaptobenzothiazole | C(CCCCCCC)N(C1=NC(=NC(=N1)N(CCCCCCCC)CCCCCCCC)NC1=CC2=C(N=C(S2)S)C=C1)CCCCCCCC | C42H73N7S2
